US04238613
30.2 g (0.1 mol) of triethyl hexane-1,2,2-tricarboxylate, 74.2 g (0.3 mol) of 1-benzyl-2,2,6,6-tetramethyl-4-hydroxypiperidine and 50 ml of xylene are warmed to 130° and mixed with 0.8 g of LiNH2. The ethanol formed is distilled off continuously. The solution is kept at the above temperature for 3 hours, so that it can then be kept at 150° for a further 2 hours. After cooling, the residue is taken up in toluene, a little glacial acetic acid is added to the solution and the latter is washed with H2O. After drying over Na2SO4, the solvent is distilled off in vacuo. Tris-(1-benzyl-2,2,6,6-tetramethyl-4-piperidinyl)hexane-1,2,2-tricarboxylate is obtained as a powdery residue. (Compound No. 1).

reactant | triethyl hexane-1,2,2-tricarboxylate | 0.1 mol, 30.2 g | C(C(CCCC)(C(=O)OCC)C(=O)OCC)C(=O)OCC | C15H26O6
reactant | 1-benzyl-2,2,6,6-tetramethyl-4-hydroxypiperidine | 0.3 mol, 74.2 g | C(C1=CC=CC=C1)N1C(CC(CC1(C)C)O)(C)C | C16H25NO
reactant | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | LiNH2 | 0.8 g | [Li]N
solvent | ethanol | C(C)O | C2H6O
product | Tris-(1-benzyl-2,2,6,6-tetramethyl-4-piperidinyl)hexane-1,2,2-tricarboxylate | C(C1=CC=CC=C1)N1C(CC(CC1(C)C)OC(=O)CC(CCCC)(C(=O)OC1CC(N(C(C1)(C)C)CC1=CC=CC=C1)(C)C)C(=O)OC1CC(N(C(C1)(C)C)CC1=CC=CC=C1)(C)C)(C)C | C57H83N3O6
